data/oMe_Silver.jsonl
{"reaction_id": "NR-226_1-C(F)(F)F_2-C3CC3_3-c2ccc(C(F)(F)F)cc2","level": "medium","name": "Polonovski-Potier Reaction","reactants_smiles": ["O=C(C(F)(F)F)OC(=O)C(F)(F)F","C1CCC[N+]([O-])(C(C(F)(F)F)(C3CC3)(c2ccc(C(F)(F)F)cc2))C1"],"products_smiles": ["C1CCC[N+](C(C(F)(F)F)(C3CC3)(c2ccc(C(F)(F)F)cc2))=C1"],"conditions": "TFAA","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCC[N+]([O]C([O-])(C(F)(F)F)OC(=O)C(F)(F)F)(C(C(F)(F)F)(C3CC3)(c2ccc(C(F)(F)F)cc2))C1","step_weight": 0,"rationale": "The N-oxide oxygen acts as a nucleophile toward the highly electrophilic carbonyl of TFAA, driven by strong electron withdrawal from CF3 groups, forming an activated intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCC[N+]([O]C(=O)C(F)(F)F)(C(C(F)(F)F)(C3CC3)(c2ccc(C(F)(F)F)cc2))C1","step_weight": 0,"rationale": "The trifluoroacetate anion is an excellent leaving group due to resonance and inductive stabilization by CF3, enabling elimination to form the iminium intermediate."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1CCC[N+](C(C(F)(F)F)(C3CC3)(c2ccc(C(F)(F)F)cc2))=C1","step_weight": 0,"rationale": "Base-assisted deprotonation adjacent to the iminium center is favored, as it restores conjugation and yields the thermodynamically stable alkene product."}],"description": "In the Polonovski-Potier reaction under TFAA activation, the N-oxide oxygen attacks the electrophilic anhydride, forming an activated intermediate. The trifluoroacetate group facilitates leaving group departure, generating an iminium species, which then undergoes deprotonation to yield the alkene product."}
{"reaction_id": "NR-221_1-c4cnccn4_2-C(=O)OCC","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(c4cnccn4)(C(=O)OCC)"],"products_smiles": ["C1(c4cnccn4)(C(=O)OCC)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c4cnccn4)(C(=O)OCC)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of c4cnccn4 and C(=O)OCC, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(c4cnccn4)(C(=O)OCC)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(c4cnccn4)(C(=O)OCC)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
